US06864396B2
To a mixture of 25.7 grams of aluminum chloride, 51.3 mL of 1,2-dichloroethane, and 10 grams of benzene-1,2,4,5-tetracarboxylic acid dianhydride (pyromellitic dianhydride) was added with cooling, a solution of 14.9 grams of hexylbenzene and 6.40 grams of diisopropylethylamine in 25 mL of 1,2-dichloroethane over a period of 3.5 hours, keeping the temperature between 15° C. and 20° C. The resulting mixture was stirred for an additional 15 minutes after the addition was complete, and it was then heated to 40° C. for one hour. The warm mixture was poured into a beaker with 200 grams of ice and 75 mL of concentrated hydrochloric acid and stirred overnight at room temperature. The aqueous phase was poured off and the resulting oily solid was stirred with 500 mL of water, and the water was poured off. This water wash was repeated, and the resulting residue was dissolved in 250 mL of acetone and concentrated in vacuo. This residue was stirred with 55 mL of ethyl acetate, and the resulting solid was collected by filtration, washed with 100 mL of ethyl acetate, and dried to give 2,5-bis(4-hexylbenzoyl)terephthalic acid.

reactant | aluminum chloride | 25.7 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene-1,2,4,5-tetracarboxylic acid dianhydride | 10 grams | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | hexylbenzene | 14.9 grams | C(CCCCC)C1=CC=CC=C1 | C12H18
reactant | diisopropylethylamine | 6.40 grams | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | 75 mL | Cl | ClH
solvent | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 51.3 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
solvent | water | 500 mL | O | H2O
product | 2,5-bis(4-hexylbenzoyl)terephthalic acid | C(CCCCC)C1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)CCCCCC)=O)C=C1 | C34H38O6
